US05753710
a. Methyl 4-(6-quinolyloxy)-3-methylsulfonylbenzoate
2 mmol of methyl 4-chloro-3-methylsulfonylbenzoate, 2 mmol of 6-hydroxyquinoline and 6 mmol of K2CO3 were stirred at 130° C. for 2 h in 20 ml of DMF (anhydrous). The mixture was then poured into 100 ml of saturated aqueous NaHCO3 solution and extracted 3 times with 100 ml of EA. The extract was dried over Na2SO4, the solvent was removed in vacuo and the product was reacted further without further purification.

reactant | methyl 4-chloro-3-methylsulfonylbenzoate | 2 mmol | ClC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H9ClO4S
reactant | 6-hydroxyquinoline | 2 mmol | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | K2CO3 | 6 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Methyl 4-(6-quinolyloxy)-3-methylsulfonylbenzoate | N1=CC=CC2=CC(=CC=C12)OC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C18H15NO5S
